US06316437B1
A solution of sodium hydroxide (6.7 gm, 167 mmol) in water (20 mL) was added slowly to a neat mixture of 3-fluorophenol (8.9 gm, 79.5 mmol) and 3-bromopropionic acid (12.26 gm,80 mmol) as the reaction became exothermic. The mixture was refluxed gently for two hours and then allowed to cool and become semi-solid. Water was added to dissolve the semi-solid and then was acidified with concentrated HCl. The product was extracted into diethyl ether and the ethereal extract was dried over anhydrous magnesium sulfate, filtered and evaporated. The residue was slurried in 4:1 hexanetbenzene to give crystalline 3-(3-fluorophenoxy) propionic acid. m.p.: 90-91° C.

reactant | sodium hydroxide | 167 mmol, 6.7 gm | [OH-].[Na+]
reactant | 3-fluorophenol | 79.5 mmol, 8.9 gm | FC=1C=C(C=CC1)O | C6H5FO
reactant | 3-bromopropionic acid | 80 mmol, 12.26 gm | BrCCC(=O)O | C3H5BrO2
reactant | HCl | Cl | ClH
solvent | water | 20 mL | O | H2O
product | 3-(3-fluorophenoxy) propionic acid | FC=1C=C(OCCC(=O)O)C=CC1 | C9H9FO3
